US08106190B2
Sodium hydride was added at room temperature to a DMF solution of ethyl 6-chloro-2-[(cyclopropylmethyl)amino]nicotinate and 2,2,2-trifluoroethanol, followed by stirring at 80° C. for 20 hours. By post-treating the reaction liquid, ethyl 2-[(cyclopropylmethyl)amino]-6-(2,2,2-trifluoroethoxy)nicotinate was obtained.

reactant | Sodium hydride | [H-].[Na+]
reactant | ethyl 6-chloro-2-[(cyclopropylmethyl)amino]nicotinate | ClC1=NC(=C(C(=O)OCC)C=C1)NCC1CC1 | C12H15ClN2O2
reactant | 2,2,2-trifluoroethanol | FC(CO)(F)F | C2H3F3O
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 2-[(cyclopropylmethyl)amino]-6-(2,2,2-trifluoroethoxy)nicotinate | C1(CC1)CNC1=C(C(=O)OCC)C=CC(=N1)OCC(F)(F)F | C14H17F3N2O3
